US04236002
(-)-α-Amino-3-(azidomethyl)-4-hydroxybenzeneacetic acid
To a solution of (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid (252 mg, 1 mmole) in 4 ml of methyl alcohol is added sodium azide (156 mg, 2.4 mmole). The mixture is stirred at about 40° C. for 15 minutes. After about 10 minutes the title compound begins to precipitate. The mixture is cooled, filtered and the product is washed with a small amount of methyl alcohol and acetone. The title compound is collected (210 mg, 95% yield). M.P. >300°; [α]D18 =-73.03° (c 1.7, water), NMR (DMSO-D6) ppm (δ) 4.22 (s,1), 4.35 (s,2), 6.7-7.5 (superimposed q and s,3).

reactant | (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid | 1 mmole, 252 mg | NC(C(=O)O)C1=CC(=C(C=C1)O)CCl | C9H10ClNO3
reactant | sodium azide | 2.4 mmole, 156 mg | [N-]=[N+]=[N-].[Na+]
solvent | methyl alcohol | 4 ml | CO | CH4O
product | (-)-α-Amino-3-(azidomethyl)-4-hydroxybenzeneacetic acid | 95% yield | NC(C(=O)O)C1=CC(=C(C=C1)O)CN=[N+]=[N-] | C9H10N4O3
